US04075341
2-Phenyl-s-triazolo[5,1-a]isoquinoline
Following substantially the same procedures of Example 58, and starting from 2-phenyl-5,6-dihydro-s-triazolo[5,1-a]isoquinoline, the title compound is prepared. Yield 56%, m.p. 157°-8° C (from ethyl acetate).

reactant | 2-phenyl-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C16H13N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Phenyl-s-triazolo[5,1-a]isoquinoline | Yield 56% | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C3C=C2)=N1 | C16H11N3
